** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-185/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant J10b: 300 cycles, nominal period
** 3.9170 ns, injected period jitter 1.000000% RMS
** (seeded RNG, seed 185010), TR = TF = 200 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.900000n 0 2.100000n 1.8 3.867587n 1.8
+ 4.067587n 0 5.835174n 0 6.035174n 1.8 7.812706n 1.8
+ 8.012706n 0 9.790239n 0 9.990239n 1.8 11.709488n 1.8
+ 11.909488n 0 13.628738n 0 13.828738n 1.8 15.600628n 1.8
+ 15.800628n 0 17.572519n 0 17.772519n 1.8 19.553921n 1.8
+ 19.753921n 0 21.535324n 0 21.735324n 1.8 23.478011n 1.8
+ 23.678011n 0 25.420698n 0 25.620698n 1.8 27.351104n 1.8
+ 27.551104n 0 29.281509n 0 29.481509n 1.8 31.250456n 1.8
+ 31.450456n 0 33.219404n 0 33.419404n 1.8 35.171235n 1.8
+ 35.371235n 0 37.123066n 0 37.323066n 1.8 39.089098n 1.8
+ 39.289098n 0 41.055130n 0 41.255130n 1.8 43.008410n 1.8
+ 43.208410n 0 44.961691n 0 45.161691n 1.8 46.906346n 1.8
+ 47.106346n 0 48.851000n 0 49.051000n 1.8 50.822296n 1.8
+ 51.022296n 0 52.793592n 0 52.993592n 1.8 54.747858n 1.8
+ 54.947858n 0 56.702123n 0 56.902123n 1.8 58.656420n 1.8
+ 58.856420n 0 60.610717n 0 60.810717n 1.8 62.573219n 1.8
+ 62.773219n 0 64.535720n 0 64.735720n 1.8 66.489666n 1.8
+ 66.689666n 0 68.443611n 0 68.643611n 1.8 70.409970n 1.8
+ 70.609970n 0 72.376329n 0 72.576329n 1.8 74.330021n 1.8
+ 74.530021n 0 76.283714n 0 76.483714n 1.8 78.269536n 1.8
+ 78.469536n 0 80.255357n 0 80.455357n 1.8 82.166974n 1.8
+ 82.366974n 0 84.078592n 0 84.278592n 1.8 86.053946n 1.8
+ 86.253946n 0 88.029300n 0 88.229300n 1.8 89.965099n 1.8
+ 90.165099n 0 91.900898n 0 92.100898n 1.8 93.844309n 1.8
+ 94.044309n 0 95.787720n 0 95.987720n 1.8 97.708553n 1.8
+ 97.908553n 0 99.629386n 0 99.829386n 1.8 101.604522n 1.8
+ 101.804522n 0 103.579659n 0 103.779659n 1.8 105.507584n 1.8
+ 105.707584n 0 107.435510n 0 107.635510n 1.8 109.376588n 1.8
+ 109.576588n 0 111.317665n 0 111.517665n 1.8 113.267539n 1.8
+ 113.467539n 0 115.217412n 0 115.417412n 1.8 117.188125n 1.8
+ 117.388125n 0 119.158838n 0 119.358838n 1.8 121.105444n 1.8
+ 121.305444n 0 123.052051n 0 123.252051n 1.8 125.010528n 1.8
+ 125.210528n 0 126.969005n 0 127.169005n 1.8 128.902948n 1.8
+ 129.102948n 0 130.836891n 0 131.036891n 1.8 132.774925n 1.8
+ 132.974925n 0 134.712958n 0 134.912958n 1.8 136.684613n 1.8
+ 136.884613n 0 138.656268n 0 138.856268n 1.8 140.586354n 1.8
+ 140.786354n 0 142.516440n 0 142.716440n 1.8 144.483552n 1.8
+ 144.683552n 0 146.450664n 0 146.650664n 1.8 148.411420n 1.8
+ 148.611420n 0 150.372176n 0 150.572176n 1.8 152.331191n 1.8
+ 152.531191n 0 154.290206n 0 154.490206n 1.8 156.221172n 1.8
+ 156.421172n 0 158.152138n 0 158.352138n 1.8 160.103538n 1.8
+ 160.303538n 0 162.054938n 0 162.254938n 1.8 164.003802n 1.8
+ 164.203802n 0 165.952666n 0 166.152666n 1.8 167.894949n 1.8
+ 168.094949n 0 169.837233n 0 170.037233n 1.8 171.828640n 1.8
+ 172.028640n 0 173.820048n 0 174.020048n 1.8 175.754551n 1.8
+ 175.954551n 0 177.689054n 0 177.889054n 1.8 179.629152n 1.8
+ 179.829152n 0 181.569250n 0 181.769250n 1.8 183.508568n 1.8
+ 183.708568n 0 185.447886n 0 185.647886n 1.8 187.377655n 1.8
+ 187.577655n 0 189.307423n 0 189.507423n 1.8 191.255155n 1.8
+ 191.455155n 0 193.202888n 0 193.402888n 1.8 195.158147n 1.8
+ 195.358147n 0 197.113406n 0 197.313406n 1.8 199.047563n 1.8
+ 199.247563n 0 200.981720n 0 201.181720n 1.8 202.890503n 1.8
+ 203.090503n 0 204.799286n 0 204.999286n 1.8 206.754163n 1.8
+ 206.954163n 0 208.709039n 0 208.909039n 1.8 210.663509n 1.8
+ 210.863509n 0 212.617979n 0 212.817979n 1.8 214.590097n 1.8
+ 214.790097n 0 216.562214n 0 216.762214n 1.8 218.512178n 1.8
+ 218.712178n 0 220.462141n 0 220.662141n 1.8 222.428435n 1.8
+ 222.628435n 0 224.394728n 0 224.594728n 1.8 226.374648n 1.8
+ 226.574648n 0 228.354567n 0 228.554567n 1.8 230.301638n 1.8
+ 230.501638n 0 232.248708n 0 232.448708n 1.8 234.215738n 1.8
+ 234.415738n 0 236.182768n 0 236.382768n 1.8 238.152998n 1.8
+ 238.352998n 0 240.123229n 0 240.323229n 1.8 242.079197n 1.8
+ 242.279197n 0 244.035165n 0 244.235165n 1.8 245.979002n 1.8
+ 246.179002n 0 247.922838n 0 248.122838n 1.8 249.870750n 1.8
+ 250.070750n 0 251.818663n 0 252.018663n 1.8 253.824114n 1.8
+ 254.024114n 0 255.829565n 0 256.029565n 1.8 257.821423n 1.8
+ 258.021423n 0 259.813281n 0 260.013281n 1.8 261.771691n 1.8
+ 261.971691n 0 263.730100n 0 263.930100n 1.8 265.731600n 1.8
+ 265.931600n 0 267.733100n 0 267.933100n 1.8 269.675644n 1.8
+ 269.875644n 0 271.618188n 0 271.818188n 1.8 273.582219n 1.8
+ 273.782219n 0 275.546251n 0 275.746251n 1.8 277.522987n 1.8
+ 277.722987n 0 279.499724n 0 279.699724n 1.8 281.459622n 1.8
+ 281.659622n 0 283.419520n 0 283.619520n 1.8 285.376046n 1.8
+ 285.576046n 0 287.332571n 0 287.532571n 1.8 289.266826n 1.8
+ 289.466826n 0 291.201080n 0 291.401080n 1.8 293.118970n 1.8
+ 293.318970n 0 295.036859n 0 295.236859n 1.8 297.002262n 1.8
+ 297.202262n 0 298.967664n 0 299.167664n 1.8 300.914107n 1.8
+ 301.114107n 0 302.860550n 0 303.060550n 1.8 304.852856n 1.8
+ 305.052856n 0 306.845163n 0 307.045163n 1.8 308.758824n 1.8
+ 308.958824n 0 310.672485n 0 310.872485n 1.8 312.604532n 1.8
+ 312.804532n 0 314.536578n 0 314.736578n 1.8 316.494694n 1.8
+ 316.694694n 0 318.452810n 0 318.652810n 1.8 320.401457n 1.8
+ 320.601457n 0 322.350104n 0 322.550104n 1.8 324.293454n 1.8
+ 324.493454n 0 326.236804n 0 326.436804n 1.8 328.220440n 1.8
+ 328.420440n 0 330.204075n 0 330.404075n 1.8 332.150001n 1.8
+ 332.350001n 0 334.095927n 0 334.295927n 1.8 336.057631n 1.8
+ 336.257631n 0 338.019335n 0 338.219335n 1.8 340.004657n 1.8
+ 340.204657n 0 341.989979n 0 342.189979n 1.8 343.934561n 1.8
+ 344.134561n 0 345.879143n 0 346.079143n 1.8 347.828678n 1.8
+ 348.028678n 0 349.778213n 0 349.978213n 1.8 351.716855n 1.8
+ 351.916855n 0 353.655497n 0 353.855497n 1.8 355.609135n 1.8
+ 355.809135n 0 357.562773n 0 357.762773n 1.8 359.554792n 1.8
+ 359.754792n 0 361.546811n 0 361.746811n 1.8 363.499707n 1.8
+ 363.699707n 0 365.452604n 0 365.652604n 1.8 367.400733n 1.8
+ 367.600733n 0 369.348863n 0 369.548863n 1.8 371.305355n 1.8
+ 371.505355n 0 373.261847n 0 373.461847n 1.8 375.254057n 1.8
+ 375.454057n 0 377.246266n 0 377.446266n 1.8 379.183298n 1.8
+ 379.383298n 0 381.120331n 0 381.320331n 1.8 383.091373n 1.8
+ 383.291373n 0 385.062415n 0 385.262415n 1.8 387.017329n 1.8
+ 387.217329n 0 388.972244n 0 389.172244n 1.8 390.941558n 1.8
+ 391.141558n 0 392.910873n 0 393.110873n 1.8 394.855352n 1.8
+ 395.055352n 0 396.799832n 0 396.999832n 1.8 398.779878n 1.8
+ 398.979878n 0 400.759924n 0 400.959924n 1.8 402.746665n 1.8
+ 402.946665n 0 404.733407n 0 404.933407n 1.8 406.669845n 1.8
+ 406.869845n 0 408.606282n 0 408.806282n 1.8 410.579704n 1.8
+ 410.779704n 0 412.553125n 0 412.753125n 1.8 414.472846n 1.8
+ 414.672846n 0 416.392567n 0 416.592567n 1.8 418.353025n 1.8
+ 418.553025n 0 420.313483n 0 420.513483n 1.8 422.259298n 1.8
+ 422.459298n 0 424.205114n 0 424.405114n 1.8 426.134864n 1.8
+ 426.334864n 0 428.064615n 0 428.264615n 1.8 430.034682n 1.8
+ 430.234682n 0 432.004749n 0 432.204749n 1.8 433.967902n 1.8
+ 434.167902n 0 435.931054n 0 436.131054n 1.8 437.906541n 1.8
+ 438.106541n 0 439.882028n 0 440.082028n 1.8 441.830071n 1.8
+ 442.030071n 0 443.778114n 0 443.978114n 1.8 445.741175n 1.8
+ 445.941175n 0 447.704236n 0 447.904236n 1.8 449.654138n 1.8
+ 449.854138n 0 451.604040n 0 451.804040n 1.8 453.583686n 1.8
+ 453.783686n 0 455.563332n 0 455.763332n 1.8 457.505453n 1.8
+ 457.705453n 0 459.447574n 0 459.647574n 1.8 461.397655n 1.8
+ 461.597655n 0 463.347736n 0 463.547736n 1.8 465.309671n 1.8
+ 465.509671n 0 467.271606n 0 467.471606n 1.8 469.220058n 1.8
+ 469.420058n 0 471.168510n 0 471.368510n 1.8 473.116913n 1.8
+ 473.316913n 0 475.065317n 0 475.265317n 1.8 477.029255n 1.8
+ 477.229255n 0 478.993193n 0 479.193193n 1.8 480.969885n 1.8
+ 481.169885n 0 482.946576n 0 483.146576n 1.8 484.909378n 1.8
+ 485.109378n 0 486.872179n 0 487.072179n 1.8 488.835751n 1.8
+ 489.035751n 0 490.799322n 0 490.999322n 1.8 492.756471n 1.8
+ 492.956471n 0 494.713621n 0 494.913621n 1.8 496.711841n 1.8
+ 496.911841n 0 498.710062n 0 498.910062n 1.8 500.681417n 1.8
+ 500.881417n 0 502.652772n 0 502.852772n 1.8 504.623085n 1.8
+ 504.823085n 0 506.593398n 0 506.793398n 1.8 508.572969n 1.8
+ 508.772969n 0 510.552540n 0 510.752540n 1.8 512.550574n 1.8
+ 512.750574n 0 514.548607n 0 514.748607n 1.8 516.508316n 1.8
+ 516.708316n 0 518.468024n 0 518.668024n 1.8 520.421929n 1.8
+ 520.621929n 0 522.375834n 0 522.575834n 1.8 524.356108n 1.8
+ 524.556108n 0 526.336381n 0 526.536381n 1.8 528.303064n 1.8
+ 528.503064n 0 530.269747n 0 530.469747n 1.8 532.253980n 1.8
+ 532.453980n 0 534.238214n 0 534.438214n 1.8 536.216551n 1.8
+ 536.416551n 0 538.194889n 0 538.394889n 1.8 540.127189n 1.8
+ 540.327189n 0 542.059489n 0 542.259489n 1.8 544.041375n 1.8
+ 544.241375n 0 546.023261n 0 546.223261n 1.8 548.005233n 1.8
+ 548.205233n 0 549.987204n 0 550.187204n 1.8 551.960022n 1.8
+ 552.160022n 0 553.932839n 0 554.132839n 1.8 555.885706n 1.8
+ 556.085706n 0 557.838573n 0 558.038573n 1.8 559.810459n 1.8
+ 560.010459n 0 561.782345n 0 561.982345n 1.8 563.755811n 1.8
+ 563.955811n 0 565.729276n 0 565.929276n 1.8 567.685830n 1.8
+ 567.885830n 0 569.642384n 0 569.842384n 1.8 571.612968n 1.8
+ 571.812968n 0 573.583552n 0 573.783552n 1.8 575.568164n 1.8
+ 575.768164n 0 577.552777n 0 577.752777n 1.8 579.550439n 1.8
+ 579.750439n 0 581.548101n 0 581.748101n 1.8 583.471739n 1.8
+ 583.671739n 0 585.395377n 0 585.595377n 1.8 587.339910n 1.8
+ 587.539910n 0 589.284444n 0 589.484444n 1.8 591.231208n 1.8
+ 591.431208n 0 593.177972n 0 593.377972n 1.8 595.138809n 1.8
+ 595.338809n 0 597.099645n 0 597.299645n 1.8 599.054166n 1.8
+ 599.254166n 0 601.008686n 0 601.208686n 1.8 602.993648n 1.8
+ 603.193648n 0 604.978610n 0 605.178610n 1.8 606.945995n 1.8
+ 607.145995n 0 608.913380n 0 609.113380n 1.8 610.856717n 1.8
+ 611.056717n 0 612.800053n 0 613.000053n 1.8 614.769379n 1.8
+ 614.969379n 0 616.738706n 0 616.938706n 1.8 618.722239n 1.8
+ 618.922239n 0 620.705773n 0 620.905773n 1.8 622.658676n 1.8
+ 622.858676n 0 624.611580n 0 624.811580n 1.8 626.563616n 1.8
+ 626.763616n 0 628.515652n 0 628.715652n 1.8 630.510946n 1.8
+ 630.710946n 0 632.506239n 0 632.706239n 1.8 634.494996n 1.8
+ 634.694996n 0 636.483753n 0 636.683753n 1.8 638.422007n 1.8
+ 638.622007n 0 640.360262n 0 640.560262n 1.8 642.344529n 1.8
+ 642.544529n 0 644.328795n 0 644.528795n 1.8 646.274505n 1.8
+ 646.474505n 0 648.220216n 0 648.420216n 1.8 650.201482n 1.8
+ 650.401482n 0 652.182748n 0 652.382748n 1.8 654.147596n 1.8
+ 654.347596n 0 656.112444n 0 656.312444n 1.8 658.078982n 1.8
+ 658.278982n 0 660.045520n 0 660.245520n 1.8 661.991855n 1.8
+ 662.191855n 0 663.938191n 0 664.138191n 1.8 665.885187n 1.8
+ 666.085187n 0 667.832183n 0 668.032183n 1.8 669.819227n 1.8
+ 670.019227n 0 671.806271n 0 672.006271n 1.8 673.727805n 1.8
+ 673.927805n 0 675.649339n 0 675.849339n 1.8 677.632033n 1.8
+ 677.832033n 0 679.614728n 0 679.814728n 1.8 681.564308n 1.8
+ 681.764308n 0 683.513889n 0 683.713889n 1.8 685.470725n 1.8
+ 685.670725n 0 687.427561n 0 687.627561n 1.8 689.351112n 1.8
+ 689.551112n 0 691.274662n 0 691.474662n 1.8 693.224420n 1.8
+ 693.424420n 0 695.174178n 0 695.374178n 1.8 697.126560n 1.8
+ 697.326560n 0 699.078943n 0 699.278943n 1.8 701.052020n 1.8
+ 701.252020n 0 703.025096n 0 703.225096n 1.8 704.980270n 1.8
+ 705.180270n 0 706.935444n 0 707.135444n 1.8 708.905501n 1.8
+ 709.105501n 0 710.875557n 0 711.075557n 1.8 712.821978n 1.8
+ 713.021978n 0 714.768399n 0 714.968399n 1.8 716.748113n 1.8
+ 716.948113n 0 718.727828n 0 718.927828n 1.8 720.686338n 1.8
+ 720.886338n 0 722.644848n 0 722.844848n 1.8 724.612968n 1.8
+ 724.812968n 0 726.581087n 0 726.781087n 1.8 728.560394n 1.8
+ 728.760394n 0 730.539702n 0 730.739702n 1.8 732.488990n 1.8
+ 732.688990n 0 734.438277n 0 734.638277n 1.8 736.391439n 1.8
+ 736.591439n 0 738.344601n 0 738.544601n 1.8 740.304355n 1.8
+ 740.504355n 0 742.264108n 0 742.464108n 1.8 744.238251n 1.8
+ 744.438251n 0 746.212393n 0 746.412393n 1.8 748.149591n 1.8
+ 748.349591n 0 750.086789n 0 750.286789n 1.8 752.050370n 1.8
+ 752.250370n 0 754.013950n 0 754.213950n 1.8 755.973553n 1.8
+ 756.173553n 0 757.933156n 0 758.133156n 1.8 759.886980n 1.8
+ 760.086980n 0 761.840804n 0 762.040804n 1.8 763.814867n 1.8
+ 764.014867n 0 765.788930n 0 765.988930n 1.8 767.779078n 1.8
+ 767.979078n 0 769.769225n 0 769.969225n 1.8 771.733516n 1.8
+ 771.933516n 0 773.697807n 0 773.897807n 1.8 775.609412n 1.8
+ 775.809412n 0 777.521017n 0 777.721017n 1.8 779.489050n 1.8
+ 779.689050n 0 781.457084n 0 781.657084n 1.8 783.436384n 1.8
+ 783.636384n 0 785.415684n 0 785.615684n 1.8 787.400672n 1.8
+ 787.600672n 0 789.385660n 0 789.585660n 1.8 791.319575n 1.8
+ 791.519575n 0 793.253490n 0 793.453490n 1.8 795.221912n 1.8
+ 795.421912n 0 797.190334n 0 797.390334n 1.8 799.138880n 1.8
+ 799.338880n 0 801.087425n 0 801.287425n 1.8 803.063109n 1.8
+ 803.263109n 0 805.038793n 0 805.238793n 1.8 806.976830n 1.8
+ 807.176830n 0 808.914868n 0 809.114868n 1.8 810.876025n 1.8
+ 811.076025n 0 812.837183n 0 813.037183n 1.8 814.787642n 1.8
+ 814.987642n 0 816.738101n 0 816.938101n 1.8 818.657021n 1.8
+ 818.857021n 0 820.575940n 0 820.775940n 1.8 822.489536n 1.8
+ 822.689536n 0 824.403131n 0 824.603131n 1.8 826.350594n 1.8
+ 826.550594n 0 828.298057n 0 828.498057n 1.8 830.278284n 1.8
+ 830.478284n 0 832.258510n 0 832.458510n 1.8 834.217286n 1.8
+ 834.417286n 0 836.176062n 0 836.376062n 1.8 838.153702n 1.8
+ 838.353702n 0 840.131342n 0 840.331342n 1.8 842.073754n 1.8
+ 842.273754n 0 844.016167n 0 844.216167n 1.8 845.958898n 1.8
+ 846.158898n 0 847.901629n 0 848.101629n 1.8 849.860750n 1.8
+ 850.060750n 0 851.819870n 0 852.019870n 1.8 853.766837n 1.8
+ 853.966837n 0 855.713804n 0 855.913804n 1.8 857.700954n 1.8
+ 857.900954n 0 859.688103n 0 859.888103n 1.8 861.669714n 1.8
+ 861.869714n 0 863.651325n 0 863.851325n 1.8 865.631208n 1.8
+ 865.831208n 0 867.611090n 0 867.811090n 1.8 869.545106n 1.8
+ 869.745106n 0 871.479121n 0 871.679121n 1.8 873.466848n 1.8
+ 873.666848n 0 875.454574n 0 875.654574n 1.8 877.401563n 1.8
+ 877.601563n 0 879.348552n 0 879.548552n 1.8 881.322436n 1.8
+ 881.522436n 0 883.296320n 0 883.496320n 1.8 885.258595n 1.8
+ 885.458595n 0 887.220870n 0 887.420870n 1.8 889.195133n 1.8
+ 889.395133n 0 891.169397n 0 891.369397n 1.8 893.128198n 1.8
+ 893.328198n 0 895.086998n 0 895.286998n 1.8 897.047773n 1.8
+ 897.247773n 0 899.008547n 0 899.208547n 1.8 900.980286n 1.8
+ 901.180286n 0 902.952026n 0 903.152026n 1.8 904.886650n 1.8
+ 905.086650n 0 906.821275n 0 907.021275n 1.8 908.756793n 1.8
+ 908.956793n 0 910.692312n 0 910.892312n 1.8 912.652178n 1.8
+ 912.852178n 0 914.612044n 0 914.812044n 1.8 916.550742n 1.8
+ 916.750742n 0 918.489440n 0 918.689440n 1.8 920.451699n 1.8
+ 920.651699n 0 922.413959n 0 922.613959n 1.8 924.348531n 1.8
+ 924.548531n 0 926.283104n 0 926.483104n 1.8 928.256976n 1.8
+ 928.456976n 0 930.230847n 0 930.430847n 1.8 932.209521n 1.8
+ 932.409521n 0 934.188194n 0 934.388194n 1.8 936.151786n 1.8
+ 936.351786n 0 938.115378n 0 938.315378n 1.8 940.067710n 1.8
+ 940.267710n 0 942.020043n 0 942.220043n 1.8 943.983472n 1.8
+ 944.183472n 0 945.946901n 0 946.146901n 1.8 947.894216n 1.8
+ 948.094216n 0 949.841530n 0 950.041530n 1.8 951.794758n 1.8
+ 951.994758n 0 953.747985n 0 953.947985n 1.8 955.708677n 1.8
+ 955.908677n 0 957.669369n 0 957.869369n 1.8 959.618937n 1.8
+ 959.818937n 0 961.568505n 0 961.768505n 1.8 963.521270n 1.8
+ 963.721270n 0 965.474035n 0 965.674035n 1.8 967.437774n 1.8
+ 967.637774n 0 969.401514n 0 969.601514n 1.8 971.326237n 1.8
+ 971.526237n 0 973.250960n 0 973.450960n 1.8 975.178496n 1.8
+ 975.378496n 0 977.106032n 0 977.306032n 1.8 979.075056n 1.8
+ 979.275056n 0 981.044081n 0 981.244081n 1.8 982.987678n 1.8
+ 983.187678n 0 984.931275n 0 985.131275n 1.8 986.889825n 1.8
+ 987.089825n 0 988.848376n 0 989.048376n 1.8 990.792004n 1.8
+ 990.992004n 0 992.735633n 0 992.935633n 1.8 994.693223n 1.8
+ 994.893223n 0 996.650814n 0 996.850814n 1.8 998.597855n 1.8
+ 998.797855n 0 1000.544896n 0 1000.744896n 1.8 1002.505288n 1.8
+ 1002.705288n 0 1004.465680n 0 1004.665680n 1.8 1006.435468n 1.8
+ 1006.635468n 0 1008.405256n 0 1008.605256n 1.8 1010.348835n 1.8
+ 1010.548835n 0 1012.292414n 0 1012.492414n 1.8 1014.236265n 1.8
+ 1014.436265n 0 1016.180116n 0 1016.380116n 1.8 1018.114073n 1.8
+ 1018.314073n 0 1020.048030n 0 1020.248030n 1.8 1022.041457n 1.8
+ 1022.241457n 0 1024.034885n 0 1024.234885n 1.8 1026.042013n 1.8
+ 1026.242013n 0 1028.049140n 0 1028.249140n 1.8 1029.978496n 1.8
+ 1030.178496n 0 1031.907852n 0 1032.107852n 1.8 1033.877170n 1.8
+ 1034.077170n 0 1035.846489n 0 1036.046489n 1.8 1037.868203n 1.8
+ 1038.068203n 0 1039.889918n 0 1040.089918n 1.8 1041.831841n 1.8
+ 1042.031841n 0 1043.773765n 0 1043.973765n 1.8 1045.740315n 1.8
+ 1045.940315n 0 1047.706866n 0 1047.906866n 1.8 1049.687459n 1.8
+ 1049.887459n 0 1051.668051n 0 1051.868051n 1.8 1053.646873n 1.8
+ 1053.846873n 0 1055.625695n 0 1055.825695n 1.8 1057.600454n 1.8
+ 1057.800454n 0 1059.575214n 0 1059.775214n 1.8 1061.529622n 1.8
+ 1061.729622n 0 1063.484030n 0 1063.684030n 1.8 1065.437482n 1.8
+ 1065.637482n 0 1067.390935n 0 1067.590935n 1.8 1069.372420n 1.8
+ 1069.572420n 0 1071.353905n 0 1071.553905n 1.8 1073.273984n 1.8
+ 1073.473984n 0 1075.194062n 0 1075.394062n 1.8 1077.139220n 1.8
+ 1077.339220n 0 1079.084379n 0 1079.284379n 1.8 1081.038503n 1.8
+ 1081.238503n 0 1082.992627n 0 1083.192627n 1.8 1084.944284n 1.8
+ 1085.144284n 0 1086.895940n 0 1087.095940n 1.8 1088.847910n 1.8
+ 1089.047910n 0 1090.799879n 0 1090.999879n 1.8 1092.744781n 1.8
+ 1092.944781n 0 1094.689682n 0 1094.889682n 1.8 1096.646190n 1.8
+ 1096.846190n 0 1098.602697n 0 1098.802697n 1.8 1100.566301n 1.8
+ 1100.766301n 0 1102.529905n 0 1102.729905n 1.8 1104.453432n 1.8
+ 1104.653432n 0 1106.376960n 0 1106.576960n 1.8 1108.327004n 1.8
+ 1108.527004n 0 1110.277048n 0 1110.477048n 1.8 1112.242071n 1.8
+ 1112.442071n 0 1114.207094n 0 1114.407094n 1.8 1116.181574n 1.8
+ 1116.381574n 0 1118.156053n 0 1118.356053n 1.8 1120.149973n 1.8
+ 1120.349973n 0 1122.143893n 0 1122.343893n 1.8 1124.122007n 1.8
+ 1124.322007n 0 1126.100122n 0 1126.300122n 1.8 1128.063556n 1.8
+ 1128.263556n 0 1130.026990n 0 1130.226990n 1.8 1131.982988n 1.8
+ 1132.182988n 0 1133.938987n 0 1134.138987n 1.8 1135.909294n 1.8
+ 1136.109294n 0 1137.879601n 0 1138.079601n 1.8 1139.836287n 1.8
+ 1140.036287n 0 1141.792973n 0 1141.992973n 1.8 1143.773249n 1.8
+ 1143.973249n 0 1145.753526n 0 1145.953526n 1.8 1147.750433n 1.8
+ 1147.950433n 0 1149.747341n 0 1149.947341n 1.8 1151.704029n 1.8
+ 1151.904029n 0 1153.660718n 0 1153.860718n 1.8 1155.600450n 1.8
+ 1155.800450n 0 1157.540182n 0 1157.740182n 1.8 1159.463682n 1.8
+ 1159.663682n 0 1161.387182n 0 1161.587182n 1.8 1163.328879n 1.8
+ 1163.528879n 0 1165.270576n 0 1165.470576n 1.8 1167.243522n 1.8
+ 1167.443522n 0 1169.216467n 0 1169.416467n 1.8 1171.153927n 1.8
+ 1171.353927n 0 1173.091387n 0 1173.291387n 1.8 1175.045694n 1.8
+ 1175.245694n 0 1177.000000n 0 1177.200000n 1.8 1178.958500n 1.8
+ 1179.158500n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.temp 27
.control
set filetype=ascii
save v(CLK)
tran 200p 1.2u
linearize v(CLK)
wrdata tt_27c_1.80v-point000.raw v(CLK)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
